US07557213B2
Step 2: 1-(6-Bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester
8.75 g (40.3 mmol) of 4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester was dissolved/suspended in 100 mL DMF followed by the addition of 1.93 g (48.3 mmol) of 60% sodium hydride. After the bubbling has ceased 12.1 g (48.3 mmol) of 2-bromo-6-bromomethyl-pyridine was added and the solution was stirred at r.t. overnight. The reaction was quenched using 900 mL of water, filtered and washed with 200 mL of water. The solid was further washed with 100 mL DCM. The DCM washes were evaporated and chromatographed on silica using 0-30% methanol in DCM. The purified compound was combined with the washed solid to give 14.9 g of the product as an off-white solid.

reactant | 4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 40.3 mmol, 8.75 g | C(C)OC(=O)C1=CNC2=CC=CC=C2C1=O | C12H11NO3
reactant | sodium hydride | 48.3 mmol, 1.93 g | [H-].[Na+]
reactant | 2-bromo-6-bromomethyl-pyridine | 48.3 mmol, 12.1 g | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(6-Bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 14.9 g | C(C)OC(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br | C18H15BrN2O3
